Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transaminitis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with history of exercise induced asthma, 
allergic rhinitis, dysmenorrhea/endometriosis who was referred 
in from her PCP with elevated transaminases following a large 
accidental ingestion of tylenol to treat pain related to 
presumed gastritis, found to have ALT 12,775, AST 21,365 in the 
outpatient setting. 

Ms. ___ notes that she developed acute onset abdominal pain on 
___ associated with right upper quadrant/mid-epigastric pain, 
nausea, and green colored diarrhea. She spent the ___ 
weekend in a cabin in ___. During that time she ate 
potato/chicken salad. She notes there were times where the 
potato/chicken salad was in a cooler and would be transferred in 
and out of the cooler throughout the day. She denies any tick 
bites, mosquito bites, or ingestion of any mushrooms.

She felt well throughout the weekend but developed sudden right 
upper quadrant/epigastric pain on ___. She developed nausea, 
green colored diarrhea (no melena or hematochezia), fevers, 
chills, night sweats and myalgias. She denied any joints pains. 
These persisted on ___. To treat the symptoms, she 
took Pepto-Bismol, TUMS, and ranitidine. 

Since the symptoms persisted she presented to her PCP ___ ___. 
She was diagnosed with acute gastritis and prescribed omeprazole 
40 mg BID, Ondansetron ___ mg every 6 hours for nausea and 
Tylenol prn for discomfort. She took 5 tablets of Tylenol (dose 
unknown) on ___ and 3 tablets of Tylenol (dose unknown) on ___. 
Her sister claims, however, that when investigating a previously 
new bottle of 150 Tylenol pills, there were only 100 or so 
remaining. During the follow-up visit, LFT's were sent which 
were noted to be elevated with AST 12,775 and AST 21,365. Given 
the elevated transaminases she was referred to the Emergency 
Department. 

In the ED:
Labs were notable for WBC 2.5, H/H13.8/37.5, platelets 89. ___ 
17.6, PTT 30.9. INR 1.6. Chemistry panel showed Na 133, 
Potassium 4.3, Chloride 100, HCO3 24, Creatinine 1.5 (baseline 
0.7) glucose 130.  ALT was 7,080, AST 6,391, Alk Phos 89, Total 
Bilirubin 8.3.  Toxicology testing was negative for aspirin, 
ethanol, benzodiazepine, barbiturates, tricyclics. Acetaminophen 
was positive for acetaminophen with a level of 12.  Urine 
toxicology was negative for benzodiazepines, barbiturates, 
opiates, cocaine, acetaminophen, methadone. 
Lactate was 2.6. UA showed 14 WBC, 4 RBC. Blood cultures x 2 
pending. RUQ US performed which showed "1. echogenic liver 
consistent with steatosis. Other forms of liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded. 2. Thickened gallbladder wall, likely related to a 
liver dysfunction, chronic entities such  xanthogranulomatous 
cholecystitis while much less likely cannot be excluded, follow 
up ultrasound is recommended in 6 weeks to re-evaluate." 
Toxicology consulted. recommended admission with 21 hour NAC 
protocol. Received the loading dose in the ED (150 mg/kg over 60 
minutes). Recommended 4 hour infusion at 12.5 mg/kg/hour 
followed up 16 hour infusion of 6.25 mg/kg/hour. Received 
acetylcysteine, in ED but concern for patient developing 
tachycardia so patient received famotidine, and diphenhydramine. 
Patient also received 1 L normal saline. 

On the floor, patient noted her abdominal discomfort had 
improved following initial treatment.
 
Past Medical History:
-Exercise induced asthma
-Allergic rhinitis
-Dysmenorrhea/endometriosis
-Alcohol misuse
  
 
Social History:
___
Family History:
-Breast cancer in family
-History of alcohol abuse
-No primary liver diseases. 
 
Physical Exam:
===============
ADMISSION EXAM
===============
VS: 98.7, 129/81, 102, 16, 100% on RA.    
General: Pleasant affect, laying in bed, does not appear in any 
acute distress.  
HEENT: Icteric sclera, dry mucous membranes.   
Neck: Neck supple, no elevated JVD.   
CV: RRR, S1 and S2 present, no murmurs, rubs or gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, or 
rhonchi.  
Abdomen: soft abdomen, minimal tenderness in right upper 
quadrant/epigastric region, no rebound or guarding, normoactive 
bowel sounds.   
Ext: No lower extremity edema.    
Neuro: No asterixis.
Skin: Urticaria like lesions on the back and chest. 

===============
DISCHARGE EXAM
===============
VS: 97.6 PO 117/96 72 17 99RA  
GEN: ambulating well, NAD, AAOx3, pleasant, conversational
HEENT: NCAT, MMM
NECK: No JVD
CV: RR, S1+S2, NMRG
RESP: CTABL, no w/r/r
GI: nondistended. normal bs. nontender w/o rebound/guarding. no 
asterixis.
GU: Deferred
EXT: WWP, no edema
NEURO: CN II-XII grossly intact, MAE
 
Pertinent Results:
==============
ADMISSION LABS
===============
___ 10:50PM BLOOD Plt Ct-89*
___ 02:56AM BLOOD ___ PTT-30.9 ___
___ 10:50PM BLOOD WBC-2.5*# RBC-4.20 Hgb-13.8 Hct-37.5 
MCV-89 MCH-32.9* MCHC-36.8 RDW-11.9 RDWSD-37.8 Plt Ct-89*
___ 10:50PM BLOOD Neuts-64.5 ___ Monos-8.1 Eos-2.0 
Baso-0.8 Im ___ AbsNeut-1.60# AbsLymp-0.60* AbsMono-0.20 
AbsEos-0.05 AbsBaso-0.02
___ 10:50PM BLOOD Glucose-130* UreaN-12 Creat-1.5* Na-133 
K-4.3 Cl-100 HCO3-24 AnGap-13
___ 10:50PM BLOOD ALT-7080* AST-6391* AlkPhos-89 
TotBili-8.3*
___ 10:50PM BLOOD Albumin-4.1 Calcium-8.5 Phos-2.2* Mg-2.3
___ 10:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-12 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:50PM BLOOD Acetmnp-NEG
___ 01:03AM BLOOD Lactate-2.6*
===============
KEY INTERIM LABS
===============
___ 10:55AM BLOOD ALT-4900* AST-2920* AlkPhos-69 
TotBili-9.3*
___ 08:50PM BLOOD ALT-3997* AST-1827* AlkPhos-70 
TotBili-9.6*
___ 05:50AM BLOOD ALT-3194* AST-1074* AlkPhos-67 
TotBili-8.9*

=================
IMAGING
=================
RUQ U/S ___:
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded
on the basis of this examination.
2. Thickened gallbladder wall, likely related to a liver 
dysfunction, chronic
entities such xanthogranulomatous cholecystitis while much less 
likely cannot
be excluded, followup ultrasound is recommended in 6 weeks to 
re-evaluate.

 
Brief Hospital Course:
ACUTE ISSUES:
# Transaminitis: Patient presented with significantly elevated 
transaminitis with ALT 12,775, AST 21,365 as outpatient. Most 
likely possibility was acetaminophen toxicity in the setting of 
the patient deliriously overusing acetaminophen during viral 
illness, given that her sister reported 50 missing acetaminophen 
pills in a 2 day span. Other considerations include acute viral 
hepatitis and autoimmune hepatitis for which a full workup was 
sent. CMV/EBV and sexually transmitted infection studies were 
also sent. Her transaminitis downtrended consistently during the 
course of her admission to the time of discharge. Patient was 
treated with NAC protocol. She was discharged with instructions 
to follow-up in outpatient clinic for repeat LFTs. Results 
showed HBsAg negative, HBsAb positive, HBcAb negative, IgM HBc 
negative, HAV Ab positive, although IgM HAV negative. 

# Thrombocytopenia/Leukopenia: Patient presented with WBC and 
plt counts well below baseline. Thought to be secondary to 
underlying viral illness, with CMV/EBV studies sent. Appeared to 
be resolving at time of discharge. 

# Coagulopathy: Patient had elevated INR of 1.6 on admission. 
Etiology may be secondary to malnutrition versus worsening 
hepatic dysfunction. She was given vitamin K 10mg IV and INR was 
downtrending to 1.2 at time of discharge.

# Alcohol Abuse: Drinks up to 15 drinks per week. She 
acknowledged having difficulty with her alcohol consumption in 
the past. Was kept on multivitamin, folic acid, thiamine during 
admission. Outpatient follow-up was discussed.

___ Issues:
-Patient will need follow-up appointment with primary care to 
assess clinical status and serum chem 7, CBC, ___, INR, ALT, AST, 
Tbili, Alk phos within a week of discharge.
-Liver US demonstrated thickened gallbladder wall, likely 
related to a liver dysfunction, chronic entities such 
xanthogranulomatous cholecystitis while much less likely cannot 
be excluded, followup ultrasound is recommended in 6 weeks to 
re-evaluate. 
- f/u results of Hep E, ___ Ab, RPR, CMV/EBV 
viral load, blood cultures.
- Please obtain repeat UA as an outpatient given evidence of 
hematuria during hospitalization. 
- Please discuss alcohol abstinence as an outpatient. 
- Code Status: Full Code (confirmed) 
- Contact Information: ___ (sister): ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pseudoephedrine 30 mg PO Q6H:PRN allergic rhinitis 
2. Amphetamine-Dextroamphetamine XR 20 mg PO 3X/WEEK PRN 
inattention 

 
Discharge Medications:
1. Amphetamine-Dextroamphetamine XR 20 mg PO 3X/WEEK PRN 
inattention 
2. Pseudoephedrine 30 mg PO Q6H:PRN allergic rhinitis 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
- Medication induced hepatic injury

SECONDARY DIAGNOSIS
===================
-Exercise induced asthma
-Allergic rhinitis
-Dysmenorrhea/endometriosis
-Alcohol misuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

You were admitted to the hospital after you were found at your 
outpatient clinic to have evidence of liver injury following 
Tylenol use for a likely "stomach bug."
 
In the emergency room you received blood work that followed the 
injury to your liver and also ruled out other causes of injury. 
It became clear from the story we obtained that the most likely 
cause of the injury to the liver was from the amount of Tylenol 
that was taken. We understand this was accidental. Tylenol can 
be toxic in large amounts, so it is very important to adhere to 
the maximum dose guidelines on the side of the bottle.

Please also attempt to abstain from alcohol as this can lead to 
worsening of your liver function. 

Please note that you underwent an ultrasound of your liver 
during this hospitalization. Results indicated "thickened 
gallbladder wall, likely related to a liver dysfunction, chronic 
entities such xanthogranulomatous cholecystitis while much less 
likely cannot be excluded." Please follow up with your primary 
care physician. PLEASE OBTAIN A REPEAT ULTRASOUND IN 6 WEEKS to 
re-evaluate your gallbladder. 

You were also noted to have a small amount of blood in your 
urine. Please follow up with your primary care physician to get 
___ repeat urine sample to assess for resolution of the blood 
within the urine. 

When you get home you should follow-up with your primary care 
doctor in order to have repeat blood tests drawn to assess your 
liver.

It was a pleasure taking care of you during your 
hospitalization! We wish you all the best! 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___